US07119115B2
1.4 cm3 of ethyl diazoacetate are added dropwise to a solution, cooled to −70° C., of 3 g of 4,4-bis(4-fluorophenyl)cyclohex-2-enone in 75 cm3 of tetrahydrofuran, followed by slow addition of 37.9 cm3 of lithium diisopropylamide solution prepared from 10.5 cm3 of 1.6 M n-butyllithium and 2.4 cm3 of diisopropylamine in solution in 25 cm3 of tetrahydrofuran. After stirring the reaction mixture at a temperature in the region of −70° C. for 3 hours, 1.9 cm3 of glacial acetic acid are added and the temperature is allowed to rise to the region of 20° C. 250 cm3 of ethyl acetate are added and the organic phases are then washed with twice 150 cm3 of distilled water, dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue is dissolved in 100 cm3 of toluene and heated at a temperature in the region of 110° C. for 3 hours and then concentrated to dryness under reduced pressure. The residue obtained is purified by flash chromatography on silica gel (35–70 μm), eluting with a dichloromethane/diisopropyl ether (50/50) mixture; 1.2 g of ethyl 6,6-bis(4-fluorophenyl)-6,7-dihydro-1H-indazole-3-carboxylate are thus obtained in the form of a beige-coloured foam, the characteristics of which are as follows:

reactant | ethyl diazoacetate | 1.4 cm3 | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | 4,4-bis(4-fluorophenyl)cyclohex-2-enone | 3 g | FC1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC=C(C=C1)F | C18H14F2O
reactant | lithium diisopropylamide | 37.9 cm3 | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M, 10.5 cm3 | C(CCC)[Li]
reactant | diisopropylamine | 2.4 cm3 | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 75 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 cm3 | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.9 cm3 | C(C)(=O)O | C2H4O2
product | ethyl 6,6-bis(4-fluorophenyl)-6,7-dihydro-1H-indazole-3-carboxylate | 1.2 g | FC1=CC=C(C=C1)C1(C=CC=2C(=NNC2C1)C(=O)OCC)C1=CC=C(C=C1)F | C22H18F2N2O2
